US09023847B2
18. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(3-trifluoromethyl-phenyl)-ethyl]-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 2-(3-trifluoromethylphenyl)ethylamine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 431 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.53 (1H, br. s.) 10.28 (1H, s) 8.20 (1H, t, J=5.56 Hz) 8.02 (1H, d, J=5.27 Hz) 7.77 (1H, d, J=5.47 Hz) 7.60 (1H, s) 7.44-7.56 (4H, m) 7.31 (1H, dd, J=3.32, 2.54 Hz) 6.82 (1H, d, J=5.47 Hz) 6.42 (1H, dd, J=3.42, 1.85 Hz) 3.47-3.56 (2H, m) 2.94 (2H, t, J=7.03 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 2-(3-trifluoromethylphenyl)ethylamine | FC(C=1C=C(C=CC1)CCN)(F)F | C9H10F3N
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(3-trifluoromethyl-phenyl)-ethyl]-amide | FC(C=1C=C(C=CC1)CCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2)(F)F | C21H17F3N4OS
